US08309562B2
(2-Chloro-6-nitro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine:
A mixture of 1.65 g (6.76 mmol) of 2,4-dichloro-6-nitro-quinazoline, 1.02 g (7.44 mmol) of (4-methoxy-phenyl)-methyl-amine, 0.6 g (7.43 mmol) of NaOAc in 6 mL of THF and 6 mL of water was stirred at ambient temperature for 18 hours. The reaction mixture extracted with EtOAc (2×15 mL) and organics were washed with NaHCO3, dried and concentrated. Isolation done by MPLC (0-30% EtOAc/hexanes as eluent) to give 1.86 g of the title compound. 1H NMR (DMSO-d6) δ 8.38-7.13 (7H), 3.84 (s, 3H), 3.59 (s, 3H); LC-MS (ESI+; 345 ([M+H]+)).

reactant | 2,4-dichloro-6-nitro-quinazoline | 6.76 mmol, 1.65 g | ClC1=NC2=CC=C(C=C2C(=N1)Cl)[N+](=O)[O-] | C8H3Cl2N3O2
reactant | (4-methoxy-phenyl)-methyl-amine | 7.44 mmol, 1.02 g | COC1=CC=C(C=C1)NC | C8H11NO
reactant | NaOAc | 7.43 mmol, 0.6 g | CC(=O)[O-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | (2-Chloro-6-nitro-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 1.86 g | ClC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H13ClN4O3
